US05219862
(2-methyl-6-n-propyl-8beta-ergolinyl)-acetonitrile
(2-methoxymethyl-6-n-propyl-8beta-ergolinyl)-acetonitrile, yield 91%, [α]D =-91° (0.5% in chloroform).

reactant | (2-methoxymethyl-6-n-propyl-8beta-ergolinyl)-acetonitrile | COCC1=C2C[C@H]3N(C[C@@H](C[C@@H]3C=3C=CC=C(N1)C32)CC#N)CCC | C21H27N3O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2-methyl-6-n-propyl-8beta-ergolinyl)-acetonitrile | CC1=C2C[C@H]3N(C[C@@H](C[C@@H]3C=3C=CC=C(N1)C32)CC#N)CCC | C20H25N3
